US04042371
Preparation of bis-(β-m-chlorobenzamidoethyl)sulfide.
To a solution of bis-(β-aminoethyl)sulfide (2.5 g., 0.021M) and sodium hydroxide (1.6 g., 0.04 M) in 20 ml. of water and 40 ml. of ether was added a solution of m-chlorobenzoyl chloride (7.0 g., 0.04 M) in 15 ml. of ether at 10°-20° C. A precipitate appeared. The mixture was stirred 45 minutes at room temperature and the solid filtered, washed with water and dried. The product was a white solid. m.p. 150°-152° C. Its structure was confirmed by IR spectroscopy. Yield: 7.0 g. (88%).

reactant | bis-(β-aminoethyl)sulfide | 0.021M, 2.5 g | NCCSCCN | C4H12N2S
reactant | sodium hydroxide | 0.04 M, 1.6 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | m-chlorobenzoyl chloride | 0.04 M, 7.0 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | ether | CCOCC | C4H10O
product | bis-(β-m-chlorobenzamidoethyl)sulfide | ClC=1C=C(C(=O)NCCSCCNC(C2=CC(=CC=C2)Cl)=O)C=CC1 | C18H18Cl2N2O2S
